US04962109
Stage 2: Preparation of 3,5-difluoro-4-methyl-2-methylthiobenzyl alcohol.
Methyl 4-(methoxymethyl)-2-methylthio-3,5,6-trifluorobenzoate (0.48 g) was dissolved in dry tetrahydrofuran (2 cm3) under a nitrogen atmosphere at room temperature. To the stirred solution was added dropwise a solution of lithium aluminum hydride (1.0 cm3 of a 1.0 molar solution in THF). The mixture was stirred for 0.5 hour then stored for 18 hours. The solution was treated with 2 molar hydrochloric acid and extracted with dichloromethane (twice), dried (anhydrous magnesium sulphate), and evaporated under reduced pressure to give a pale yellow liquid (0.37 g). The liquid was fractionated by eluting through a bed of silica gel with dichloromethane/ethyl acetate (50:1 by volume) to yield the title product (0.04 g).

reactant | Methyl 4-(methoxymethyl)-2-methylthio-3,5,6-trifluorobenzoate | 0.48 g | COCC1=C(C(=C(C(=O)OC)C(=C1F)F)SC)F | C11H11F3O3S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 2 molar | Cl | ClH
solvent | tetrahydrofuran | 2 cm3 | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 3,5-difluoro-4-methyl-2-methylthiobenzyl alcohol | 0.37 g | FC=1C(=C(CO)C=C(C1C)F)SC | C9H10F2OS
